US08802668B2
5-Fluoro-1H-indole-7-carbaldehyde
Add vinylmagnesium bromide (1 M in tetrahydrofuran, 85.2 mL, 85.2 mmol) dropwise to a solution of 2-dibutoxymethyl-4-fluoro-1-nitro-benzene (8.5 g, 28.4 mmol) in tetrahydrofuran (250 mL) at −78° C. Warm the reaction mixture −45° C. to −50° C. for 30 minutes, cool to −78° C., and add vinylmagnesium bromide (1 M in tetrahydrofuran, 85.2 mL, 85.2 mmol) drop wise. Warm the reaction mixture to −45° C. to −50° C. for 20 minutes, then add saturated aqueous ammonium chloride (300 mL). Warm the mixture to room temperature and extract with diethyl ether (200 mL×2). Wash the combined organic phases with saturated aqueous sodium chloride (400 mL×2), dry over sodium sulfate, and concentrate under reduced pressure. Dissolve the residue in tetrahydrofuran (100 mL), add 0.5 N HCl (10 mL), and stir for 20 minutes. Dilute the mixture with diethyl ether (200 mL), wash sequentially with saturated aqueous sodium bicarbonate (200 mL×3) and saturated aqueous sodium chloride (200 mL×2). Dry the organic phase over sodium sulfate and concentrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with 5% to 10% ethyl acetate in hexanes to provide the desired compound as a pale yellow solid (2.6 g, 56%).

reactant | vinylmagnesium bromide | 85.2 mmol, 1 M, 85.2 mL | C(=C)[Mg]Br
reactant | 2-dibutoxymethyl-4-fluoro-1-nitro-benzene | 28.4 mmol, 8.5 g | C(CCC)OC(C1=C(C=CC(=C1)F)[N+](=O)[O-])OCCCC | C15H22FNO4
reactant | vinylmagnesium bromide | 85.2 mmol, 1 M, 85.2 mL | C(=C)[Mg]Br
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 5-Fluoro-1H-indole-7-carbaldehyde | 2.6 g, 56% | FC=1C=C2C=CNC2=C(C1)C=O | C9H6FNO
